US04894385
Methyl 4-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethylthio]benzoate
965 mg of methyl 4-mercaptobenzoate were dissolved in 6 ml of dry dimethylformamide. 250 mg of a 55% w/w suspension of sodium hydride in mineral oil were added to the resulting solution, whilst ice-cooling, and the mixture was then stirred at room temperature for 30 minutes. A solution of 1.1 g of 1-[2-chloro-2-(4-fluorophenyl)ethyl]imidazole dissolved in 16 ml of dry dimethylformamide was added to the resulting mixture. The mixture was then heated at 70° to 75° C. for 2.5 hours. At the end of this time, the resulting mixture was treated and purified similarly to the procedure described in Example 1, to give 866 mg of the title compound as a powder.

reactant | methyl 4-mercaptobenzoate | 965 mg | SC1=CC=C(C(=O)OC)C=C1 | C8H8O2S
reactant | sodium hydride | [H-].[Na+]
reactant | 1-[2-chloro-2-(4-fluorophenyl)ethyl]imidazole | 1.1 g | ClC(CN1C=NC=C1)C1=CC=C(C=C1)F | C11H10ClFN2
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
product | Methyl 4-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethylthio]benzoate | 866 mg | FC1=CC=C(C=C1)C(CN1C=NC=C1)SC1=CC=C(C(=O)OC)C=C1 | C19H17FN2O2S
